US06355631B1
346 mm3 of triethylamine are added, at room temperature under an argon atmosphere, to a solution of 398 mg of N-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-N-(pyrid-4-ylmethyl)amine in 8 cm3 of dichloromethane. The mixture is cooled to around 0° C. before adding thereto 155 mm3 of methylsulfonyl choride, and then it is stirred at room temperature for 3 hours. The reaction mixture is diluted with 35 cm3 of dichloromethane and is then washed with twice 20 cm3 of distilled water. The organic phase is dried over magnesium sulfate, filtered and concentrated to dryness under reduced pressure (2.7 kPa). The residue obtained is purified by flash chromatography on silica gel [eluent:dichloromethane/methanol (97/3 by volume)]. 288 mg of N-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-N-(pyrid-4-ylmethyl)methylsulfonamide are obtained in the form of a cream-colored foam [1H NMR spectrum (300 MHz, CDCl3, δ in ppm):2.83 (s:3H); 3.02 (broad t, J=7.5 Hz: 2H); 3.40 (broad t, J=7.5 Hz: 2H); 4.23 (s: 1H); 4.43 (mt: 1H); 4.57 (s: 2H); from 7.20 to 7.35 (mt: 8H); 7.32 (broad d, J=5.5 Hz: 2H); 8.60 (broad d, J=5.5 Hz: 2H)].

reactant | triethylamine | 346 mm3 | C(C)N(CC)CC | C6H15N
reactant | N-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-N-(pyrid-4-ylmethyl)amine | 398 mg | ClC1=CC=C(C=C1)C(N1CC(C1)NCC1=CC=NC=C1)C1=CC=C(C=C1)Cl | C22H21Cl2N3
reactant | methylsulfonyl choride | 155 mm3 | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 8 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 35 cm3 | ClCCl | CH2Cl2
product | N-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-N-(pyrid-4-ylmethyl)methylsulfonamide | 288 mg | ClC1=CC=C(C=C1)C(N1CC(C1)N(S(=O)(=O)C)CC1=CC=NC=C1)C1=CC=C(C=C1)Cl | C23H23Cl2N3O2S
